US05985909
1-(t-Butoxycarbonyl)-3-(chloromethyl)-6-nitroindoline (248 mg, 0.79 mmol) was stirred in HCl-saturated dioxane (8 mL) at 20° C. for 40 min (until tlc indicated complete reaction) and the mixture evaporated. 1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.30 g, 1.58 mmol) and 2-carboxy-N-[2-(2-pyridinyl)ethyl]indole-6-carboxamide (245 mg, 0.79 mmol) in DMF (20 mL) were added and the orange solution stirred at 20° C. After 24 h the DMF was evaporated, and the residue triturated with EtOAc and aqueous NaHCO3. The solid was filtered off and recrystallised from MeOH to give 2-[[3-(chloromethyl)-6-nitroindolin-1-yl]carbonyl]-N-[2-(2-pyridinyl)ethyl]indole-6-carboxamide as a yellow solid (267 mg, 67%), mp 204-207° C. 1H NMR [(CD3)2SO] δ12.15 (s, 1H, indole NH), 8.99 (d, J=2.1 Hz, 1H, H-7), 8.61 (t, J=5.5 Hz, 1H, amide NH), 8.55-8.52 (m, 1H, H-6"), 8.04 (dd, J=8.3, 2.3 Hz, 1H, H-5), 8.02 (s, 1H, H-3' or H-7'), 7.75 (d, J=8.6 Hz, 1H, H-4 or H-4'), 7.74 (d, J=8.3 Hz, 1H, H-4 or H-4'), 7.71 (dd, J=7.6, 1.9 Hz, 1H, H-4"), 7.56 (dd, J=8.5, 1.3 Hz, 1H, H-5'), 7.31 (d, J=7.7 Hz, 1H, H-3"), 7.28 (d, J=1.4 Hz, 1H, H-3' or H-7'), 7.23 (ddd, J=7.2, 4.9, 0.8 Hz, 1H, H-5"), 4.86 (t, J=10.1 Hz, 1H, H-2), 4.51 (dd, J=10.7, 5.1 Hz, 1H, H-2), 4.19-4.06 (m, 3H, H-3 and CH2Cl), 3.66 (q, J=6.7 Hz, 2H, NHCH2CH2 py), 3.04 (t, J=7.4 Hz, 2H, NHCH2CH2 py); 13C NMR δ166.7 (CONH), 160.4 (CON), 159.2 (C-2"), 147.6, 144.6, 139.9, 135.7, 131.8, 130.8, 128.9 (C-6,8,9,2',6',8',9'), 149.0, 136.4, 123.1, 121.4 (C-3",4",5",6"), 125.5, 121.6, 119.4, 118.8, 112.0, 111.2, 106.1 (C-4,5,7,3',4',5',7'), 54.0 (C-2), 47.0 (CH2Cl), 42.0 (C-3), 39.3, 37.3 (NHCH2CH2 py). A sample was converted to the hydrochloride salt and triturated with hot EtOH to give 2-[[3-(chloromethyl)-6-nitroindolin-1-yl) carbonyl]-N-[2-(2-pyridinyl)ethyl]indole-6-carboxamide hydrochloride as a pale yellow powder, mp 250-255° C. (dec.). Anal. (C26H22ClN5O4.0.25HCl) C,H,N.

reactant | 1-(t-Butoxycarbonyl)-3-(chloromethyl)-6-nitroindoline | 0.79 mmol, 248 mg | C(C)(C)(C)OC(=O)N1CC(C2=CC=C(C=C12)[N+](=O)[O-])CCl | C14H17ClN2O4
reactant | 1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 1.58 mmol, 0.30 g | Cl.CN(CCCN=C=NCC)C
reactant | 2-carboxy-N-[2-(2-pyridinyl)ethyl]indole-6-carboxamide | 0.79 mmol, 245 mg | C(=O)(O)C=1NC2=CC(=CC=C2C1)C(=O)NCCC1=NC=CC=C1 | C17H15N3O3
solvent | HCl | 8 mL | Cl | ClH
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 2-[[3-(chloromethyl)-6-nitroindolin-1-yl]carbonyl]-N-[2-(2-pyridinyl)ethyl]indole-6-carboxamide | 267 mg, 67% | ClCC1CN(C2=CC(=CC=C12)[N+](=O)[O-])C(=O)C=1NC2=CC(=CC=C2C1)C(=O)NCCC1=NC=CC=C1 | C26H22ClN5O4
